US06297196B1
Step 4: 6-Bromo-5,8-dimethylspiro[thiochromane-4,2′-[1,3]dioxolane]
58.4 g (0.22 mol) of 6-bromo-5,8-dimethyl-4-thiochromanone were dissolved in 380 ml of trimethyl orthoformate, admixed with 555 g (8.9 mol) of ethanediol and 0.2 g of p-toluenesulfonic acid monohydrate and stirred at 80° C. overnight. The mixture was subsequently allowed to cool, diluted with 500 ml of diethyl ether and washed with a 1:1 mixture of 1 M aqueous sodium hydroxide solution and sat. NaCl solution (2×500 ml) and subsequently with sat. NaCl solution (300 ml). The organic phase was dried over MgSO4 and concentrated using a rotary evaporator. The residue was taken up in 50 ml of heptaneldiethyl ether (9:1) and stored in a cold place. The crystals which had precipitated overnight were filtered off with suction, washed with cold heptane and dried.

reactant | 6-bromo-5,8-dimethyl-4-thiochromanone | 0.22 mol, 58.4 g | BrC=1C(=C2C(CCSC2=C(C1)C)=O)C | C11H11BrOS
reactant | ethanediol | 8.9 mol, 555 g | C(C)(O)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | trimethyl orthoformate | 380 ml | C(OC)(OC)OC | C4H10O3
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 6-Bromo-5,8-dimethylspiro[thiochromane-4,2′-[1,3]dioxolane] | BrC=1C(=C2C(=C(C1)C)SCCC21OCCO1)C | C13H15BrO2S
